US09260416B2
Step 1: (4-Iodo-pyrazol-1-yl)-acetic acid ethyl ester
4-Iodo-1H-pyrazole (2 g, 10.3 mmol), ethyl bromoacetate (2.3 mL, 20.6 mmol) and cesium carbonate (5 g, 15.5 mmol) were combined in DMF (20 mL). After stirring at room temperature for 30 minutes the reaction was diluted with EtOAc/hexanes (1:1) and washed with H2O/brine, with back-extraction. The organic layer was dried over MgSO4, concentrated and filtered via silica gel chromatography (0-20% EtOAc in hexanes) to give the title compound.

reactant | 4-Iodo-1H-pyrazole | 10.3 mmol, 2 g | IC=1C=NNC1 | C3H3IN2
reactant | ethyl bromoacetate | 20.6 mmol, 2.3 mL | BrCC(=O)OCC | C4H7BrO2
reactant | cesium carbonate | 15.5 mmol, 5 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | (4-Iodo-pyrazol-1-yl)-acetic acid ethyl ester | C(C)OC(CN1N=CC(=C1)I)=O | C7H9IN2O2
